Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Benadryl Decongestant
 
Attending: ___.
 
Chief Complaint:
Hematuria, BRBPR

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with ESRD with obtructive nephropathy s/p bilateral 
nephrostomy tubes on coumadin for afib, DM2 who presents with 
hematuria and BRBPR after being found to have an elevated INR to 
12.3. Patient's daughter measured her INR this morning and it 
was 8. Went to ___ for another INR reading, 
which was 12.3. Patient did not have bleeding at this time but 
upon going home noticed blood when attempting to use the 
restroom and so came to the ED. Patient and family noted blood 
in the nephrostomy tubes as well. Patient denies headache, 
lightheadedness/dizziness, confusion, vision/hearing changes, 
chest pain, palpitations, sob. States her abdomen feels "funny." 
When asked to explain further states "I feel like I'm bleeding." 
No overt pain, however. Had nonbloody diarrhea 2 days ago that 
has since stopped. Denies dysuria. Denies fever, chills.

Patient's daughter administers all patient's meds and checks her 
INR weekly. She said that for the past 4 weeks, patient's INR 
has been in the 1's. Her dose has not changed, she continues on 
1.5mg daily. She has not started any new abx or medications. Her 
diet is very consistent. She has been eating slighlty less over 
the past week. She had diarrhea 2 days ago that has since 
stopped. 

In the ED, initial vitals: 98.1 100 120/54 20 94%. Labs notable 
for INR 13.4. Hgb 10.7 (baseline 10). Gross blood around 
nephrostomy tubes. Rectal exam was guaiac positive but unclear 
if frank blood was coming just from vagina or also from rectum. 
Given 10mg IV vitamin K, 1u FFP, KCentra, and home metoprolol 
XL. Has 20G PIVs x2. Urology and GI consulted. CT scan showed 
ureteral and bladder bleeding with mild left 
hydroureteralnephrosis. Will get head CT prior to transfer.   
 
On transfer, vitals were: 98.1 67 111/52 16 96% RA  

On arrival to the MICU, patient is sleepy. She denies pain. 
Oriented to place and person. 

 
Past Medical History:
1. Diabetes mellitus type 2 with diabetic nephropathy, NIDDM  
2. Anemia  
3. Depression  
4. Hypertension  
5. Urinary incontinence  
6. Low back pain  
7. Osteoarthritis  
8. Endometrial Cancer- s/p Total abdominal hysterectomy with  
bilateral salpingo-oophorectomy in ___, c/b urinary  
incontinence, previously self cathing, then developed  
vesiculocutaneous fistulas and given bilateral nephrostomy  
tubes.  
9. CKD, stage 4 from DM/HTN. Had fistula placed ___, but has 
not matured. Surgical eval ___ recommended graft when reaches 
ESRD.  
10. Hypercholesterolemia  
11. Gait disturbance  
6. History of hairline fracture of the left wrist.  
7. Osteoarthritis.  
8. Lumbar spinal stenosis with low back pain.  
9. History of migraines.  
10. History of angiodysplasia.  
11. Hypercholesterolemia.  
13. Basal cell carcinoma.  
15. Atrial Fibrillation, on Warfarin, ___.  
16. C-Difficile, ___.  
17. Bilateral nephrostomy tubes, ___.  
18. Pulmonary Hypertension  
19. exchange of bilateral 10 ___ nephrostomy tubes ___  

 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid). DM in sister. 
  

 
Physical Exam:
Admission Exam:
Vitals: T:99.3 BP:147/127 P:117 R:35 O2:98% on 2L NC  
GENERAL: Alert, oriented to person and place
HEENT: Sclera anicteric, conjunctival pallor, MMM, oropharynx 
clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregularly irregular, tachycardic
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding
GU: Bilateral nephrostomy tubes draining frank blood, blood in 
vaginal vault, brown stool in rectum
EXT: Cool feet, 2+ edema to upper shins  
SKIN: Right tunnelled HD line with clear overlying bandage

Discharge Exam:
Patient was DNR/DNI on admission. In the setting of progressive 
septic shock, decision was made with patient's family to not 
further escalate care. Patient's heart rate progressively went 
to zero on telemetry. Was called to room to assess the patient. 
She was not responsive to verbal or tactile stimuli. Her pupils 
were not reactive to light. She had no heart or breath sounds 
for greater than 1 minute. Time of death was ___ at 1202. 
Family
was at the bedside, declined autopsy. 
 
Pertinent Results:
Admission Labs:
___ 08:15PM BLOOD WBC-8.2 RBC-3.62* Hgb-10.7* Hct-34.2 
MCV-95 MCH-29.6 MCHC-31.3* RDW-16.4* RDWSD-56.5* Plt ___
___ 08:15PM BLOOD Neuts-90.4* Lymphs-7.1* Monos-0.5* 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-7.36* AbsLymp-0.58* 
AbsMono-0.04* AbsEos-0.06 AbsBaso-0.02
___ 08:15PM BLOOD ___ PTT-64.7* ___
___ 08:15PM BLOOD Glucose-158* UreaN-21* Creat-2.2* Na-133 
K-5.3* Cl-95* HCO3-24 AnGap-19
___ 01:48AM BLOOD CK-MB-1 cTropnT-0.07*
___ 01:48AM BLOOD Calcium-8.8 Phos-1.9* Mg-1.6
___ 02:15AM BLOOD Lactate-6.1*
___ 09:56PM BLOOD K-4.1

Imaging:
___ CT A/P: IMPRESSION:    
1.  Acute hemorrhage within each ureter, including new left 
left-sided 
hydroureteronephrosis and mild distention of the right ureter, 
although 
nephrostomy tubes remain in place.  Correlation with nephrostomy 
tube output is recommended.  The possibility that the left-sided 
tube may be occluded should be considered.  Hemorrhage also 
layers within the bladder lumen. 
2.  Nonobstructing ventral hernia. 

___ CT Head:
IMPRESSION:    
No evidence for acute intracranial process. 

___ CXR:
IMPRESSION:  
As compared to previous radiograph from several hr earlier, a 
nasogastric tube is in place, terminating in the stomach.  Exam 
is otherwise remarkable for improving asymmetrical pulmonary 
edema and a persistent right pleural effusion. 

Final Labs:
___ 05:21AM BLOOD WBC-46.0*# RBC-3.21* Hgb-9.4* Hct-31.5* 
MCV-98 MCH-29.3 MCHC-29.8* RDW-16.6* RDWSD-59.4* Plt ___
___ 05:21AM BLOOD ___ PTT-36.4 ___
___ 05:21AM BLOOD Glucose-146* UreaN-24* Creat-2.5* Na-136 
K-3.2* Cl-101 HCO3-15* AnGap-23*
___ 08:33AM BLOOD CK-MB-2 cTropnT-0.07*
___ 08:56AM BLOOD Lactate-7.9*
___ 08:56AM BLOOD Hgb-10.3* calcHCT-___ with ESRD with obtructive nephropathy s/p bilateral 
nephrostomy tubes on coumadin for afib, DM2 who presents with 
hematuria and BRBPR after being found to have an elevated INR to 
12.3. 

She was initially thought to have hemorrhage shock, likely due 
to GU bleeding based on imaging, potentially GI bleeding (based 
on blood in her diaper, which could have come from GU or GI 
source). She was given 10mg IV vitamin K and 1u FFP, with a 
central line placed for access and vasopressors. Her vasopressor 
requirement rose during the morning of admission despite a 
relatively stable Hct; her WBC rose dramatically, however, to 
24.2, with an elevated lactate as well. Vancomycin/cefepime and 
Flagyl were started empirically, the latter for potential C. 
difficile infection given the report of diarrhea prior to 
admission. She was given fluid boluses, but continued to have 
worsening hemodynamics and pressor requirement. By morning, her 
family was at the bedside, and the decision was made not to 
further escalate care as it would not be within her goals of 
care. Family was at bedside when the patient passed from 
presumed refractory septic shock. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Allopurinol ___ mg PO EVERY 3 DAYS 
3. Citalopram 10 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Furosemide 160 mg PO BID 
6. Warfarin 1.5 mg PO DAILY16 
7. darbepoetin alfa in polysorbat 100 mcg/0.5 mL injection 
monthly 
8. Januvia (sitaGLIPtin) 25 mg oral daily 
9. Loratadine 10 mg PO EVERY OTHER DAY 
10. Metoprolol Succinate XL 25 mg PO BID 
11. ProAir HFA (albuterol sulfate) 90 mcg/actuation INHALATION 
Q4H:PRN SOB/wheezing 
12. Nephrocaps 1 CAP PO DAILY 
13. Senna 8.6 mg PO BID:PRN constipation 
14. Gabapentin 100 mg PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
N/A
 
Discharge Condition:
N/A
 
Discharge Instructions:
N/A
 
Followup Instructions:
___